US08912330B2
1-{[3-(4-fluorophenoxy)benzyl]oxy}-6-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1H-pyrrolo[3,2-b]pyridine
The entitled compound is prepared from tert-butyl 4-[4-(1-hydroxy-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate and 1-(bromomethyl)-3-(4-fluorophenoxy)benzene as described in the last 2 steps of Example 18.

reactant | tert-butyl 4-[4-(1-hydroxy-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | ON1C=CC2=NC=C(C=C21)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C20H25N5O3
reactant | 1-(bromomethyl)-3-(4-fluorophenoxy)benzene | BrCC1=CC(=CC=C1)OC1=CC=C(C=C1)F | C13H10BrFO
product | 1-{[3-(4-fluorophenoxy)benzyl]oxy}-6-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1H-pyrrolo[3,2-b]pyridine | FC1=CC=C(OC=2C=C(CON3C=CC4=NC=C(C=C43)C=4C=NN(C4)C4CCNCC4)C=CC2)C=C1 | C28H26FN5O2
